US04588719
1-Cyano-2-(4-methoxy-2-bromo-phenyl)-propane
Bromine (17.9 ml) is added dropwise over a period of 1.5 hours to a solution of 1-cyano-2-(p-methoxyphenyl)-n-propane (61.2 g) and sodium acetate (34.4 g) in glacial acetic acid (350 ml), and the solution is stirred for 30 min. at RT. The reaction mixture is poured into H2O, extracted with diethyl ether, and the etheral extract is washed with H2O, sat'd NaHCO3, 10% NaOH, sat'd NaCl, dried, filtered, and the filtrate evaporated in vacuo. The residue is distilled affording the product as a cloudy oil, B.P.=162° C. (2 mm).

reactant | Bromine | 17.9 ml | BrBr | Br2
reactant | 1-cyano-2-(p-methoxyphenyl)-n-propane | 61.2 g | C(#N)CC(C)C1=CC=C(C=C1)OC | C11H13NO
reactant | sodium acetate | 34.4 g | C(C)(=O)[O-].[Na+]
reactant | H2O | O | H2O
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 1-Cyano-2-(4-methoxy-2-bromo-phenyl)-propane | C(#N)CC(C)C1=C(C=C(C=C1)OC)Br | C11H12BrNO
